US03984397
To a solution of 2,2,2-trichloroethyl 2-methyl-2,3-methylene-6-(2-phenylacetamido)penam-3-carboxylate (1.2 g.) in benzene (30 ml.) were added pyridine (0.36 g.) and phosphorus pentachloride (0.9 g.) under stirring and cooling at 10°C, and the mixture was stirred for 2 hours at room temperature. The solution was cooled at 10°C and absolute methanol (3 ml.) was added to the solution, after which the mixture was stirred for 2 hours at room temperature. Dimethylaniline (2.35 g.) and a solution of (2-thienyl)acetyl chloride (0.42 g.) in anhydrous benzene (5 ml.) were dropwise added to the solution under stirring and cooling at -5°C, and the mixture was stirred for 30 minutes at the same temperature and 1.5 hours at room temperature. The reaction mixture was washed with 5% hydrochloric acid, water, 5% sodium bicarbonate aqueous solution and water in turn and then dried. After drying, the solvent was removed and the residue oil was purified by column chromatography on silica gel (20 g.) using chloroform as developing solvent. The eluate was separated into each 50 ml. fraction and the 12th to 14th fractions were concentrated. The residue was crystallized from ether to give crystals of 2,2,2-trichloroethyl 2-methyl-2,3-methylene-6-[2-(2-thienyl)acetamido]penam-3-carboxylate (105 mg.), mp 144° to 145°C (dec.).

reactant | 2,2,2-trichloroethyl 2-methyl-2,3-methylene-6-(2-phenylacetamido)penam-3-carboxylate | 1.2 g | CC12S[C@H]3N(C1(C(=O)OCC(Cl)(Cl)Cl)C2)C(C3NC(CC3=CC=CC=C3)=O)=O | C18H17Cl3N2O4S
reactant | phosphorus pentachloride | 0.9 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | Dimethylaniline | 2.35 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | (2-thienyl)acetyl chloride | 0.42 g | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | 3 ml | CO | CH4O
solvent | pyridine | 0.36 g | N1=CC=CC=C1 | C5H5N
product | 2,2,2-trichloroethyl 2-methyl-2,3-methylene-6-[2-(2-thienyl)acetamido]penam-3-carboxylate | 105 mg | CC12S[C@H]3N(C1(C(=O)OCC(Cl)(Cl)Cl)C2)C(C3NC(CC=3SC=CC3)=O)=O | C16H15Cl3N2O4S2
